US07151102B2
A stirred mixture of 2-iodo-3-methoxybenzoic acid (20 g, 0.07 mol; prepared in a manner similar to that described above), methanol (300 ml) and concentrated sulphuric acid (3.5 ml) was heated under reflux for 8 hours, cooled to ambient temperature and added to water (1500 ml). The product was extracted into dichloromethane (3×500 ml), the combined extracts were washed with 5% aqueous sodium hydroxide solution (3×500 ml), then they were dried (MgSO4) and the solvent was removed in vacuo to give methyl 2-iodo-3-methoxybenzoate (18.5 g, 90%) as a solid, m.pt. 58–61° C.

reactant | 2-iodo-3-methoxybenzoic acid | IC1=C(C(=O)O)C=CC=C1OC | C8H7IO3
reactant | methanol | 300 ml | CO | CH4O
reactant | sulphuric acid | 3.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 1500 ml | O | H2O
product | methyl 2-iodo-3-methoxybenzoate | 18.5 g, 90% | IC1=C(C(=O)OC)C=CC=C1OC | C9H9IO3
